US06825181B1
Step 2: Synthesis of 4-[2-(pyridine-4-yl)ethyl]benzoic acid hydrochloride:
4.80 g (16.8 mmol) of methyl 4-(diethoxyphosphorylmethyl)benzoate was dissolved in 100 ml of tetrahydrofuran. 620 mg (15.5 mmol) of sodium hydride was added to the obtained solution under cooling with ice, and the obtained mixture was stirred for 30 minutes and then stirred at room temperature for additional 30 minutes. 1.38 g (12.9 mmol) of pyridine-4-aldehyde was added to the mixture, and they were stirred for 20 hours. After the treatment with ethyl acetate as the extraction solvent in an ordinary manner, the obtained crude product was dissolved in 30 ml of methanol. 300 mg of 10% palladium-carbon was added to the obtained solution, and they were stirred in the presence of hydrogen for 20 hours. After the filtration through Celite, the solvent was evaporated. The residue was dissolved in 30 mol of concentrated hydrochloric acid, and the obtained solution was stirred at 40° C. overnight. The solvent was evaporated to obtain the crude title compound.

reactant | methyl 4-(diethoxyphosphorylmethyl)benzoate | 16.8 mmol, 4.80 g | C(C)OP(=O)(OCC)CC1=CC=C(C(=O)OC)C=C1 | C13H19O5P
reactant | sodium hydride | 15.5 mmol, 620 mg | [H-].[Na+]
reactant | pyridine-4-aldehyde | 12.9 mmol, 1.38 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 30 mol | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium-carbon | 300 mg | [C].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[2-(pyridine-4-yl)ethyl]benzoic acid hydrochloride | Cl.N1=CC=C(C=C1)CCC1=CC=C(C(=O)O)C=C1 | InChI=1S/C14H13NO2.ClH/c16-14(17)13-5-3-11(4-6-13)1-2-12-7-9-15-10-8-12;/h3-10H,1-2H2,(H,16,17);1H
